US03983178
EXAMPLE 12 -- PREPARATION OF p-CHLOROMETHYL PHENOL
Equimolar quantities of p-chloromethylphenyl chloroformate and dimethyl formamide were reacted at room temperature for one hour in acetonitrile (590 parts acetonitrile for every mole of dimethyl formamide or p-chloromethylphenyl chloroformate). Equimolar quantities of methanol were then added to the immonium salt mixture, and the solution was then stirred for about one half hour (with cooling) at 25°-30°C.

reactant | p-chloromethylphenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)CCl | C8H6Cl2O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
reactant | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | p-CHLOROMETHYL PHENOL | ClCC1=CC=C(C=C1)O | C7H7ClO
